US07625938B2
Ethyl 4-hydroxy-6-methoxyquinoline-2-carboxylate
To a solution of p-anisidine (2.7 g, 22 mmol) in methanol (50 mL) was added diethyl-acetylene dicarboxylate (3.74 g, 22 mmol). The resulting solution was heated at 55° C. for 1 hour. The reaction mixture was concentrated in vacuo. The residue was dissolved in phenyl ether (40 mL) and refluxed at 240° C. for 1 hour. The reaction mixture was cooled to room temperature, diluted with hexanes and filtered. A light brown solid was obtained. LC-MS: 1.39 min; (M+H)=248.1.

reactant | p-anisidine | 22 mmol, 2.7 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | diethyl-acetylene dicarboxylate | 22 mmol, 3.74 g | C(C)OC(=O)C#CC(=O)OCC | C8H10O4
solvent | methanol | 50 mL | CO | CH4O
product | Ethyl 4-hydroxy-6-methoxyquinoline-2-carboxylate | OC1=CC(=NC2=CC=C(C=C12)OC)C(=O)OCC | C13H13NO4
